US08703763B2
b) 3-(4,4-Dimethyl-cyclohex-1-enyl)-pyridin-2-ylamine
To a solution of N-(3-(1-hydroxy-4,4-dimethylcyclohexyl)pyridin-2-yl)pivalamide (1.034 g, 3.34 mmol) in ethanol (51 mL) was added 2M aqueous sodium hydroxide solution (16.98 mmol, 8.5 mL). The reaction was heated over night at 100° C. The solvent was evaporated under reduced pressure and the residue was partitionated between ethyl acetate and water. The aqueous layer was extracted twice with ethyl acetate and the organic layers were combined, dried over sodium sulfate, filtered and the solvent was removed under reduced pressure to yield the title compound as a white solid (706 mg, quant.). MS ISP (m/e): 203.3 (100) [(M+H)+].

reactant | N-(3-(1-hydroxy-4,4-dimethylcyclohexyl)pyridin-2-yl)pivalamide | 3.34 mmol, 1.034 g | OC1(CCC(CC1)(C)C)C=1C(=NC=CC1)NC(C(C)(C)C)=O | C18H28N2O2
reactant | sodium hydroxide | 16.98 mmol, 2M, 8.5 mL | [OH-].[Na+]
solvent | ethanol | 51 mL | C(C)O | C2H6O
product | 3-(4,4-Dimethyl-cyclohex-1-enyl)-pyridin-2-ylamine | 706 mg | CC1(CC=C(CC1)C=1C(=NC=CC1)N)C | C13H18N2
